### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): results involving partial sums of coefficients (part 1)

### PR DESCRIPTION
**Pull request by xroblot**
We prove several results involving partial sums of coefficients (or norm of coefficients) of  L-series. 

The two main results of this PR are:

- `LSeriesSummable_of_sum_norm_bigO`: for `f : ℕ → ℂ`, if the partial sums `∑ k ∈ Icc 1 n, ‖f k‖` are `O(n ^ r)` for some real `0 ≤ r`, then the L-series `Lseries f` converges at `s : ℂ` for all `s` such that `r < s.re`.

- `LSeries_eq_mul_integral` : for `f : ℕ → ℂ`, if the partial sums `∑ k ∈ Icc 1 n, f k` are `O(n ^ r)` for some real `0 ≤ r` and the L-series `LSeries f` converges at `s : ℂ` with `r < s.re`, then `LSeries f s = s * ∫ t in Set.Ioi 1, (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (- (s + 1))`.

More results will be proved in #20660 

---

- [x] depends on: #19944 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 1]
```diff
@@ -81,6 +81,10 @@ theorem integrableOn_Ioi_rpow_iff {s t : ℝ} (ht : 0 < t) :
     exact Real.rpow_le_rpow_of_exponent_le x_one h
   exact not_IntegrableOn_Ioi_inv this
 
+theorem integrableAtFilter_rpow_atTop {r : ℝ} (hr : r < -1) :
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:84]: The converse of this is true as well, and might be useful. Can you add it? Here is a proof (might be golfable further)
```lean
theorem integrableAtFilter_rpow_atTop_iff {r : ℝ} :
    IntegrableAtFilter (fun x : ℝ ↦ x ^ r) atTop ↔ r < -1 := by
  refine ⟨fun h ↦ ?_, 
    fun hr ↦ ⟨Set.Ioi 1, Ioi_mem_atTop 1, (integrableOn_Ioi_rpow_iff zero_lt_one).mpr hr⟩⟩
  obtain ⟨s, hs, hr⟩ := h
  obtain ⟨t, ht⟩ := mem_atTop_sets.mp hs
  rw [← integrableOn_Ioi_rpow_iff (t := max t 1)]
  · exact hr.mono_set <| fun x hx ↦ ht _ <| (le_max_left t 1).trans hx.le
  · exact zero_lt_one.trans_le (le_max_right _ _)
```

File: Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean [hunk 2]
```diff
@@ -42,6 +42,10 @@ theorem cpow_eq_zero_iff (x y : ℂ) : x ^ y = 0 ↔ x = 0 ∧ y ≠ 0 := by
   simp only [cpow_def]
   split_ifs <;> simp [*, exp_ne_zero]
 
+theorem cpow_ne_zero_iff {x y : ℂ} (hy : y ≠ 0) :
+    x ^ y ≠ 0 ↔ x ≠ 0 := by
+  simp only [ne_eq, cpow_eq_zero_iff, hy, not_false_eq_true, and_true]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean:47]: There's a new policy that terminal simps shouldn't be squeezed, so `simp [hy]`. I also wonder whether it is maybe better for `cpow_ne_zero_iff` to be precisely the opposite of `cpow_eq_zero_iff`, i.e. `x ^ y ≠ 0 ↔ x ≠ 0 ∨ y = 0`; if you really want this exact statement, it could be called `cpow_ne_zero_iff_of_exponent_ne_zero` (very wordy, I know).

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 3]
```diff
@@ -83,19 +83,20 @@ private theorem ineqofmemIco' {k : ℕ} (hk : k ∈ Ico (⌊a⌋₊ + 1) ⌊b⌋
     a ≤ k ∧ k + 1 ≤ b :=
   ineqofmemIco (by rwa [← Finset.coe_Ico])
 
-private theorem integrablemulsum (ha : 0 ≤ a) {g : ℝ → 𝕜} (hg_int : IntegrableOn g (Set.Icc a b)) :
-    IntegrableOn (fun t ↦ g t * ∑ k ∈ Icc 0 ⌊t⌋₊, c k) (Set.Icc a b) := by
+theorem _root_.integrableOn_mul_sum {m : ℕ} (ha : 0 ≤ a) {g : ℝ → 𝕜}
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:86]: If the theorem is to be "de-privatized", then probably it should get a slightly more specific name (`integrableOn_mul_sum_Icc_floor` perhaps?) so people don't find it by accident when searching for general analysis lemmas about integrals and sums.

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 4]
```diff
@@ -235,13 +236,14 @@ section limit
 
 open Filter Topology abelSummationProof intervalIntegral
 
-private theorem locallyintegrablemulsum (ha : 0 ≤ a) {g : ℝ → 𝕜} (hg : IntegrableOn g (Set.Ici a)) :
-    LocallyIntegrableOn (fun t ↦ g t * ∑ k ∈ Icc 0 ⌊t⌋₊, c k) (Set.Ici a) := by
+theorem locallyIntegrableOn_mul_sum {m : ℕ} (ha : 0 ≤ a) {g : ℝ → 𝕜}
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:239]: (same remark here)

**Review by loefflerd — COMMENTED** [review]
Here's some feedback on all the files except the new one (will look at the new one later). All looks very good so far!

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 5]
```diff
@@ -0,0 +1,276 @@
...
+Authors: Xavier Roblot
+-/
+import Mathlib.Analysis.Asymptotics.SpecificAsymptotics
+import Mathlib.Analysis.InnerProductSpace.Calculus
+import Mathlib.Analysis.SpecialFunctions.ImproperIntegrals
+import Mathlib.NumberTheory.AbelSummation
+import Mathlib.NumberTheory.LSeries.Basic
+
+/-!
+  # Partial sums of coefficients of L-series
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:13]: This whole docstring is indented, please unindent

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 6]
```diff
@@ -0,0 +1,276 @@
...
+
+  We prove several results involving partial sums of coefficients (or norm of coefficients) of
+  L-series.
+
+  ## Main results
+
+  * `LSeriesSummable_of_sum_norm_bigO`: for `f : ℕ → ℂ`, if the partial sums
+  `∑ k ∈ Icc 1 n, ‖f k‖` are `O(n ^ r)` for some real `0 ≤ r`, then the L-series `Lseries f`
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:21]:
```suggestion
  `∑ k ∈ Icc 1 n, ‖f k‖` are `O(n ^ r)` for some real `0 ≤ r`, then the L-series `LSeries f`
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 7]
```diff
@@ -0,0 +1,276 @@
...
+    ∑ k ∈ Icc 0 n, f k = ∑ k ∈ Icc 1 n, f k := by
+  rw [← Nat.Icc_insert_succ_left n.zero_le, sum_insert (mem_Icc.not.mpr (by omega)),
+    hf, zero_add, zero_add]
+
+private theorem term_def₀ {f : ℕ → ℂ} (hf : f 0 = 0) (s : ℂ) (n : ℕ) :
+    LSeries.term f s n = (n : ℂ) ^ (- s) * f n := by
+  cases n with
+  | zero => rw [LSeries.term_zero, hf, mul_zero]
+  | succ n =>
+      rw [LSeries.term_of_ne_zero (Nat.add_one_ne_zero _), div_eq_mul_inv, cpow_neg, mul_comm]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:67]:
```suggestion
  rw [LSeries.term]
  split_ifs with h <;> simp [h, hf, cpow_neg, div_eq_inv_mul]
```

**Review by loefflerd — COMMENTED** [review]
I am not sure it is a good idea to have so many `private` declarations. When I first started contributing to mathlib, I was told that `private` was banned entirely; the rules have been relaxed somewhat, but I think indiscriminate use of `private` is still discouraged.

Many of these lemmas (not all, I admit) could potentially be useful elsewhere. Maybe they're not terribly interesting, but mathlib is full of dull-but-useful lemmas. Others have one-line proofs and are only used once in the file; so they can just be in-lined where used.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:84]: Do you think something like the following should be added to Mathlib (with the suitable hypothesis): 
```
theorem integrableAtFilter_atTop_iff {α E : Type*} (f : α → E) (μ : Measure α := by volume_tac) :
    IntegrableAtFilter f atTop μ ↔ ∃ a, IntegrableOn f (Ioi a) μ := by
```
or maybe
```
theorem integrableAtFilter_atTop_iff {α E : Type*} (f : α → E) (μ : Measure α := by volume_tac) :
    IntegrableAtFilter f atTop μ ↔ ∀ᶠ a in atTop, IntegrableOn f (Ioi a) μ
```
I don't think that would make the proof of the `iff` statement shorter though.

Comment (loefflerd) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:84]: Yes, I think we should definitely add one or the other; and I think the former is probably easier to apply in practice.

Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: #21016.  

Still, I don't think that would be useful here. So I kept your proof since I couldn't do better :) Thanks!

File: Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean]: I implemented your suggestion

Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Pow/Complex.lean]: Without squeezing the terminal simp :)

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean]: I went with the slightly shorter `integrableOn_mul_sum_Icc`. I hope that's fine.

**Comment by xroblot** [comment]
@loefflerd, I got rid of almost all the private results. The easy ones are now proved where they are needed and I generalized (or tried to) the other ones and move them where they belong. It is possible that the PR is now more difficult to review. I can split it into several smaller PR if needed, just let me know.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+  · refine integrableOn_Ici_iff_integrableOn_Ioi.mpr
+      (integrableOn_Ioi_deriv_norm_ofReal_cpow zero_lt_one ?_)
+    exact neg_re _ ▸ neg_nonpos.mpr  <| hr.trans hs.le
+  · refine (IsBigO.mul_atTop_rpow_natCast_of_isBigO_rpow ((- s).re) r 0 ?_ hO h₂).congr_right
+      (by simp)
+    exact (norm_ofReal_cpow_eventually_eq_atTop _).isBigO.natCast_atTop
+  · refine IsBigO.mul_atTop_rpow_of_isBigO_rpow (- (s.re + 1)) r _ ?_ ?_ le_rfl
+    · exact (EventuallyEq.isBigO h₄).of_const_mul_right
+    · exact (hO.comp_tendsto tendsto_nat_floor_atTop).trans <|
+        isEquivalent_nat_floor.isBigO.rpow hr (eventually_ge_atTop 0)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:65]: dot-notation is your friend here:
```suggestion
  · refine h₄.isBigO.of_const_mul_right.mul_atTop_rpow_of_isBigO_rpow _ r _ ?_ le_rfl
    exact (hO.comp_tendsto tendsto_nat_floor_atTop).trans <|
      isEquivalent_nat_floor.isBigO.rpow hr (eventually_ge_atTop 0)
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+  · exact integrableAtFilter_rpow_atTop_iff.mpr
+      (by rwa [neg_add_lt_iff_lt_add, add_neg_cancel_right])
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:67]:
```suggestion
  · rwa [integrableAtFilter_rpow_atTop_iff, neg_add_lt_iff_lt_add, add_neg_cancel_right]
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 10]
```diff
@@ -0,0 +1,173 @@
...
+theorem LSeriesSummable_of_sum_norm_bigO
+    (hO : (fun n ↦ ∑ k ∈ Icc 1 n, ‖f k‖) =O[atTop] fun n ↦ (n : ℝ) ^ r)
+    (hr : 0 ≤ r) (hs : r < s.re) :
+    LSeriesSummable f s := by
+  have h₁ : (fun n ↦ if n = 0 then 0 else f n) =ᶠ[atTop] f := by
+    filter_upwards [eventually_ne_atTop 0] with n hn using by simp_rw [if_neg hn]
+  refine LSeriesSummable.congr' _ h₁ ?_
+  refine LSeriesSummable_of_sum_norm_bigO_aux (by rw [if_pos rfl]) ?_ hr hs
+  refine hO.congr' (Eventually.of_forall fun _ ↦ Finset.sum_congr rfl fun _ h ↦ ?_) EventuallyEq.rfl
+  rw [if_neg (zero_lt_one.trans_le (mem_Icc.mp h).1).ne']
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:80]:
```suggestion
  have h₁ : (fun n ↦ if n = 0 then 0 else f n) =ᶠ[atTop] f := by
    filter_upwards [eventually_ne_atTop 0] with n hn using if_neg hn
  refine (LSeriesSummable_of_sum_norm_bigO_aux (if_pos rfl) ?_ hr hs).congr' _ h₁
  refine hO.congr' (.of_forall fun _ ↦ Finset.sum_congr rfl fun _ h ↦ ?_) .rfl
  rw [if_neg (zero_lt_one.trans_le (mem_Icc.mp h).1).ne']
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 11]
```diff
@@ -0,0 +1,173 @@
...
+/-- If `f` takes nonnegative real values and the partial sums `∑ k ∈ Icc 1 n, f k` are `O(n ^ r)`
+for some real `0 ≤ r`, then the L-series `LSeries f` converges at `s : ℂ` for all `s`
+such that `r < s.re`. -/
+theorem LSeriesSummable_of_sum_norm_bigO_and_nonneg
+    {f : ℕ → ℝ} (hO : (fun n ↦ ∑ k ∈ Icc 1 n, f k) =O[atTop] fun n ↦ (n : ℝ) ^ r)
+    (hf : ∀ n, 0 ≤ f n) (hr : 0 ≤ r) (hs : r < s.re) :
+    LSeriesSummable (fun n ↦ f n) s := by
+  refine LSeriesSummable_of_sum_norm_bigO ?_ hr hs
+  simp_rw [norm_real, Real.norm_of_nonneg (hf _)]
+  exact hO
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:91]:
```suggestion
    LSeriesSummable (fun n ↦ f n) s := 
  LSeriesSummable_of_sum_norm_bigO (by simpa [_root_.abs_of_nonneg (hf _)]) hr hs
```
(`Complex.abs_of_nonneg` should probably be `protected` to avoid this horrible `_root_` workaround, but that's a matter for another PR)

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 12]
```diff
@@ -0,0 +1,173 @@
...
+section integralrepresentation
+
+private theorem LSeries_eq_mul_integral_aux {f : ℕ → ℂ} (hf : f 0 = 0) {r : ℝ} (hr : 0 ≤ r) {s : ℂ}
+    (hs : r < s.re) (hS : LSeriesSummable f s)
+    (hO : (fun n ↦ ∑ k ∈ Icc 1 n, f k) =O[atTop] fun n ↦ (n : ℝ) ^ r) :
+    LSeries f s = s * ∫ t in Set.Ioi (1 : ℝ), (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (- (s + 1)) := by
+  have h₁ : (-s - 1).re + r < -1 := by
+    rwa [sub_re, one_re, neg_re, neg_sub_left, neg_add_lt_iff_lt_add, add_neg_cancel_comm]
+  have h₂ : s ≠ 0 := ne_zero_of_re_pos (hr.trans_lt hs)
+  have h₃ : ∀ t ∈ Set.Ici (1 : ℝ), DifferentiableAt ℝ (fun x : ℝ ↦ (x : ℂ) ^ (-s)) t :=
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:104]: see above

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 13]
```diff
@@ -0,0 +1,173 @@
...
+    ?_ hf h₃ ?_ ?_ ?_ (integrableAtFilter_rpow_atTop_iff.mpr h₁)
+  · rw [zero_sub, ← integral_neg]
+    refine setIntegral_congr_fun measurableSet_Ioi fun t ht ↦ ?_
+    rw [deriv_ofReal_cpow_const (zero_lt_one.trans ht).ne', h₄]
+    · ring_nf
+    · exact neg_ne_zero.mpr <| ne_zero_of_re_pos (hr.trans_lt hs)
+  · refine integrableOn_Ici_iff_integrableOn_Ioi.mpr <|
+      integrableOn_Ioi_deriv_ofReal_cpow zero_lt_one ?_
+    rw [neg_re, neg_lt_zero]
+    exact hr.trans_lt hs
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:123]:
```suggestion
    simpa using hr.trans_lt hs
```
(shorter and more robust)

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 14]
```diff
@@ -0,0 +1,173 @@
...
+  · have hlim : Tendsto (fun n : ℕ ↦ (n : ℝ) ^ (- (s.re - r))) atTop (𝓝 0) :=
+      (tendsto_rpow_neg_atTop (by rwa [sub_pos])).comp tendsto_natCast_atTop_atTop
+    refine IsBigO.trans_tendsto ?_ hlim
+    refine IsBigO.mul_atTop_rpow_natCast_of_isBigO_rpow (- s.re) _ _ ?_ hO ?_
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:127]: golfs to
```suggestion
    refine (IsBigO.mul_atTop_rpow_natCast_of_isBigO_rpow (-s.re) _ _ ?_ hO ?_).trans_tendsto hlim
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 15]
```diff
@@ -0,0 +1,173 @@
...
+    · exact isBigO_norm_left.mp <| (norm_ofReal_cpow_eventually_eq_atTop _).isBigO.natCast_atTop
+    · rw [neg_sub', sub_neg_eq_add]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:129]:
```suggestion
    · linarith
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 16]
```diff
@@ -0,0 +1,173 @@
...
+  · refine IsBigO.mul_atTop_rpow_of_isBigO_rpow (- (s + 1).re) r _ ?_ ?_
+      (by rw [← neg_re, neg_add'])
+    · rw [add_re, one_re, neg_add']
+      exact isBigO_deriv_ofReal_cpow_const_atTop _
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:133]:
```suggestion
  · refine .mul_atTop_rpow_of_isBigO_rpow (-(s + 1).re) r _ ?_ ?_ (by rw [← neg_re, neg_add'])
    · simpa only [add_re, one_re, neg_add'] using isBigO_deriv_ofReal_cpow_const_atTop _
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 17]
```diff
@@ -0,0 +1,173 @@
...
+  have h₁ : (fun n ↦ if n = 0 then 0 else f n) =ᶠ[atTop] f := by
+    filter_upwards [eventually_ne_atTop 0] with n hn using by simp_rw [if_neg hn]
+  have h₂ := (LSeriesSummable_congr' s h₁).mpr hS
+  have h₃ : ∀ {n}, n ≠ 0 → (fun n ↦ if n = 0 then 0 else f n) n = f n :=
+    fun hn ↦ by simp_rw [if_neg hn]
+  have h₄ : ∀ n, ∑ k ∈ Icc 1 n, (if k = 0 then 0 else f k) = ∑ k ∈ Icc 1 n, f k := fun n ↦
+    Finset.sum_congr rfl fun k hk ↦ by rw [if_neg (zero_lt_one.trans_le (mem_Icc.mp hk).1).ne']
+  rw [← LSeries_congr _ h₃, LSeries_eq_mul_integral_aux (by rw [if_pos rfl]) hr hs h₂ ?_]
+  · simp_rw [h₄]
+  · simpa [h₄] using hO
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:153]:
```suggestion
  rw [← LSeriesSummable_congr' s (f := fun n ↦ if n = 0 then 0 else f n)
    (by filter_upwards [eventually_ne_atTop 0] with n h using if_neg h)] at hS
  have (n) : ∑ k ∈ Icc 1 n, (if k = 0 then 0 else f k) = ∑ k ∈ Icc 1 n, f k :=
    Finset.sum_congr rfl fun k hk ↦ by rw [if_neg (zero_lt_one.trans_le (mem_Icc.mp hk).1).ne']
  rw [← LSeries_congr _ (fun _ ↦ if_neg _), LSeries_eq_mul_integral_aux (if_pos rfl) hr hs hS] <;>
  simp_all
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 18]
```diff
@@ -0,0 +1,173 @@
...
+
+/-- A version of `LSeries_eq_mul_integral` where we use the stronger condition that the partial sums
+`∑ k ∈ Icc 1 n, ‖f k‖` are `O(n ^ r)` to deduce the integral representation. -/
+theorem LSeries_eq_mul_integral' (f : ℕ → ℂ) {r : ℝ} (hr : 0 ≤ r) {s : ℂ} (hs : r < s.re)
+    (hO : (fun n ↦ ∑ k ∈ Icc 1 n, ‖f k‖) =O[atTop] fun n ↦ (n : ℝ) ^ r) :
+    LSeries f s = s * ∫ t in Set.Ioi (1 : ℝ), (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (- (s + 1)) := by
+  refine LSeries_eq_mul_integral _ hr hs (LSeriesSummable_of_sum_norm_bigO hO hr hs) ?_
+  exact IsBigO.trans (isBigO_of_le _ fun _ ↦ (norm_sum_le _ _).trans <| Real.le_norm_self _) hO
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:161]:
```suggestion
    LSeries f s = s * ∫ t in Set.Ioi (1 : ℝ), (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (- (s + 1)) :=
  LSeries_eq_mul_integral _ hr hs (LSeriesSummable_of_sum_norm_bigO hO hr hs)
    <| (isBigO_of_le _ fun _ ↦ (norm_sum_le _ _).trans <| Real.le_norm_self _).trans hO
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 19]
```diff
@@ -0,0 +1,173 @@
...
+
+/-- If `f` takes nonnegative real values and the partial sums `∑ k ∈ Icc 1 n, f k` are `O(n ^ r)`
+for some real `0 ≤ r`, then for `s : ℂ` with `r < s.re`, we have
+`LSeries f s = s * ∫ t in Set.Ioi 1, (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (- (s + 1))`. -/
+theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 ≤ r) {s : ℂ} (hs : r < s.re)
+    (hO : (fun n ↦ ∑ k ∈ Icc 1 n, f k) =O[atTop] fun n ↦ (n : ℝ) ^ r) (hf : ∀ n, 0 ≤ f n) :
+    LSeries (fun n ↦ f n) s =
+      s * ∫ t in Set.Ioi (1 : ℝ), (∑ k ∈ Icc 1 ⌊t⌋₊, (f k : ℂ)) * t ^ (- (s + 1)) :=
+  LSeries_eq_mul_integral' _ hr hs <| hO.congr_left fun _ ↦ by
+    simp_rw [norm_real, Real.norm_of_nonneg (hf _)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:171]:
```suggestion
  LSeries_eq_mul_integral' _ hr hs <| hO.congr_left fun _ ↦ by simp [_root_.abs_of_nonneg (hf _)]
```

**Review by loefflerd — APPROVED** [review]
Thanks for all the work you've put into this! I've suggested a bunch of changes, but almost all of them are entirely cosmetic – the only ones with any content are occasionally replacing explicit rewrites with automatic tactics (linarith, ring etc) for maintainability.

maintainer delegate

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 20]
```diff
@@ -0,0 +1,173 @@
...
+open Finset Filter MeasureTheory Topology Complex Asymptotics
+
+section summable
+
+variable {f : ℕ → ℂ} {r : ℝ} {s : ℂ}
+
+private theorem LSeriesSummable_of_sum_norm_bigO_aux (hf : f 0 = 0)
+    (hO : (fun n ↦ ∑ k ∈ Icc 1 n, ‖f k‖) =O[atTop] fun n ↦ (n : ℝ) ^ r)
+    (hr : 0 ≤ r) (hs : r < s.re) :
+     LSeriesSummable f s := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:39]:
```suggestion
    LSeriesSummable f s := by
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 21]
```diff
@@ -0,0 +1,173 @@
...
+
+## Main results
+
+* `LSeriesSummable_of_sum_norm_bigO`: for `f : ℕ → ℂ`, if the partial sums
+  `∑ k ∈ Icc 1 n, ‖f k‖` are `O(n ^ r)` for some real `0 ≤ r`, then the L-series `LSeries f`
+  converges at `s : ℂ` for all `s` such that `r < s.re`.
+
+* `LSeries_eq_mul_integral` : for `f : ℕ → ℂ`, if the partial sums `∑ k ∈ Icc 1 n, f k` are
+  `O(n ^ r)` for some real `0 ≤ r` and the L-series `LSeries f` converges at `s : ℂ` with
+  `r < s.re`, then `LSeries f s = s * ∫ t in Set.Ioi 1, (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (- (s + 1))`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:26]:
```suggestion
  `r < s.re`, then `LSeries f s = s * ∫ t in Set.Ioi 1, (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * t ^ (-(s + 1))`.
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 22]
```diff
@@ -0,0 +1,154 @@
...
+    · exact neg_ne_zero.mpr <| ne_zero_of_re_pos (hr.trans_lt hs)
+  · refine integrableOn_Ici_iff_integrableOn_Ioi.mpr <|
+      integrableOn_Ioi_deriv_ofReal_cpow zero_lt_one (by simpa using hr.trans_lt hs)
+  · have hlim : Tendsto (fun n : ℕ ↦ (n : ℝ) ^ (-(s.re - r))) atTop (𝓝 0) :=
+      (tendsto_rpow_neg_atTop (by rwa [sub_pos])).comp tendsto_natCast_atTop_atTop
+    refine (IsBigO.mul_atTop_rpow_natCast_of_isBigO_rpow (-s.re) _ _ ?_ hO ?_).trans_tendsto hlim
+    · exact isBigO_norm_left.mp <| (norm_ofReal_cpow_eventually_eq_atTop _).isBigO.natCast_atTop
+    · linarith
+  · refine .mul_atTop_rpow_of_isBigO_rpow (-(s + 1).re) r _ ?_ ?_ (by rw [← neg_re, neg_add'])
+    · simpa only [add_re, one_re, neg_add'] using isBigO_deriv_ofReal_cpow_const_atTop _
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:119]: `simpa [-neg_add_rev, neg_add'] using isBigO_deriv_ofReal_cpow_const_atTop _` also works here, cf. [Zulip discussion on (not) squeezing terminal simps](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/request.3A.20discourage.20squeezing.20terminal.20simps.3F)

Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean]: I tried to "unsqueeze" this `simp` but it didn't work, I see that the trick was to remove `neg_add_rev`. Thanks!

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
